US06964961B2
D. (+/−)-Cyclobutanecarboxylic acid {1-[7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide
The title compound was prepared from (+/−)-cyclobutanecarboxylic acid {1-[7-chloro-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide and 2-methyl-1H-indol-5-ylamine by a procedure analogous to Example 1C. MS: 474 (MH+); HPLC Rf: 4.37 min.; HPLC purity 97%.

reactant | (+/−)-cyclobutanecarboxylic acid {1-[7-chloro-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N2CC(CC2)NC(=O)C2CCC2 | C17H18ClN3O2S
reactant | 2-methyl-1H-indol-5-ylamine | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
product | (+/−)-Cyclobutanecarboxylic acid {1-[7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide | CC=1NC2=CC=C(C=C2C1)NC1=C2C(=NC=C1)C=C(S2)C(=O)N2CC(CC2)NC(=O)C2CCC2 | C26H27N5O2S
